US04927818
A solution of (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetic acid (17.8 g) and anisole (18 ml) in trifluoroacetic acid (36 ml) was stirred for 4.0 hours at room temperature. The reaction mixture was concentrated under reduced pressure and an aqueous solution of sodium bicarbonate was added thereto to adjust to pH 6.0. The aqueous solution was washed with ethyl acetate, adjusted to pH 3.8 with 6N hydrochloric acid and washed with ethyl acetate. The aqueous layer was separated and 6N hydrochloric acid was added thereto to adjust to pH 1.0. After the mixture was stirred for 10 minutes, the resultant precipitate was collected by filtration to give (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic acid (13.0 g).

reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetic acid | 17.8 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C)(C)C(=O)OC(C)(C)C | C12H18N4O5S
reactant | anisole | 18 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 36 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic acid | 13.0 g | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C)(C)C(=O)O | C8H10N4O5S
